US06225320B1
(2-Ethyloxyvinyl) trifluoromethyl ketone
To a solution of ethyl vinyl ether (22 g, 300 mmol) and pyridine (8 g, 100 mmol) in dichloromethane (150 ml) was slowly added trifluoroacetic anhydride (90 g, 430 mmol), and the mixture stirred for 18 h. The solution was washed with copper sulphate solution (150 ml) and water (150 ml), then dried (MgSO4) and concentrated to give the product as an oil (35 g, 0.21 mmol 69% yield).

reactant | ethyl vinyl ether | 300 mmol, 22 g | C(=C)OCC | C4H8O
reactant | pyridine | 100 mmol, 8 g | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 430 mmol, 90 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | (2-Ethyloxyvinyl) trifluoromethyl ketone | 0.21 mmol, 35 g, 69% yield | FC(F)(F)C(=O)C=COCC | C6H7F3O2
